US04894084
A solution of 7.0 g (0.018 mole) of 1-[3-bromo-6-fluoro-3,4-dihydroquinolin-2(1H)-one-7-yl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one in 60 mL of tetrahydrofuran was stirred, and 4.0 g (0.040 mole) of triethylamine was added. Upon completion of addition the reaction mixture was stirred at ambient temperature for 18 hours. The reaction mixture was concentrated under reduced pressure to give a residual solid. The solid was slurried in water and collected by filtration. The dried solid was slurried in 100 mL of hot ethyl acetate. The mixture was cooled, and the solid was collected by filtration to yield 3.6 g of 1-[6-fluoroquinolin-2(1H)-one-7-yl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one; m.p. 215°-217° C. The nmr spectrum was consistent with the proposed structure.

reactant | 1-[3-bromo-6-fluoro-3,4-dihydroquinolin-2(1H)-one-7-yl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.018 mole, 7.0 g | BrC1C(NC2=CC(=C(C=C2C1)F)N1N=C(N(C1=O)C(F)F)C)=O | C13H10BrF3N4O2
reactant | triethylamine | 0.040 mole, 4.0 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-[6-fluoroquinolin-2(1H)-one-7-yl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 3.6 g | FC=1C=C2C=CC(NC2=CC1N1N=C(N(C1=O)C(F)F)C)=O | C13H9F3N4O2
